US03932641
By the procedure of Example 14, 2-benzyl-2-(2-pyridyl)thioacetamide is reacted with morpholine and formaldehyde to give 2-benzyl-N-morpholinomethyl-2-(2-pyridyl)-thioacetamide.

reactant | 2-benzyl-2-(2-pyridyl)thioacetamide | C(C1=CC=CC=C1)C(C(=S)N)C1=NC=CC=C1 | C14H14N2S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | formaldehyde | C=O | CH2O
product | 2-benzyl-N-morpholinomethyl-2-(2-pyridyl)-thioacetamide | C(C1=CC=CC=C1)C(C(=S)NCN1CCOCC1)C1=NC=CC=C1 | C19H23N3OS
